US06251926B1
A mixture of 4-methoxymethoxybenzyloxyamine (4.99 g), methyl 4-oxo-4-phenylbutyrate (5.71 g), acetic acid (5.10 ml), sodium acetate (4.87 g) and methanol (200 ml) was heated under reflux for 15 hours. The reaction mixture was cooled to room temperature, dilute hydrochloric acid was added to the residue and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in tetrahydrofuran (50 ml) and methanol (5 ml). To this solution was added 1N hydrochloric acid (10 ml) and heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, water was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate (4.24 g, yield 50%) as a colorless oil from an ethyl acetate-hexane (2:5, v/v)-eluted fraction.

reactant | 4-methoxymethoxybenzyloxyamine | 4.99 g | COCOC1=CC=C(CON)C=C1 | C9H13NO3
reactant | methyl 4-oxo-4-phenylbutyrate | 5.71 g | O=C(CCC(=O)OC)C1=CC=CC=C1 | C11H12O3
reactant | sodium acetate | 4.87 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 5.10 ml | C(C)(=O)O | C2H4O2
product | methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate | 4.24 g, yield 50% | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
